US07897597B2
1-[4-Amino-7-(3-aminobenzyloxy)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol, (850 mg, 1.95 mmol) and triethyl amine (600 mg, 5.85 mmol) were dissolved in 100 mL of 1:1 acetonitrile:dichloromethane. The solution was cooled in an ice bath and methanesulfonic anhydride (375 mg, 2.15 mmol) was added in small portions. After 4 hours, a second molar equivalent of methanesulfonic anhydride was added and the reaction was stirred overnight. The solvent was removed under reduced pressure. The resulting brown oil was taken up in dichloromethane and washed with 1% aqueous sodium carbonate, dried, and concentrated under reduced pressure. The resulting solid was purified by flash column chromatography on silica gel (eluting with a gradient of 0-20% CMA in chloroform) followed by recrystallization from acetonitrile to provide 439 mg of N-{3-[(4-amino-1-(2-hydroxy-2-methylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinoline-7-yloxy)methyl]phenyl}methanesulfonamide as white crystals.

reactant | 1-[4-Amino-7-(3-aminobenzyloxy)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 1.95 mmol, 850 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)CCOC)OCC2=CC(=CC=C2)N | C24H29N5O3
reactant | triethyl amine | 5.85 mmol, 600 mg | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanesulfonic anhydride | 2.15 mmol, 375 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-{3-[(4-amino-1-(2-hydroxy-2-methylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinoline-7-yloxy)methyl]phenyl}methanesulfonamide | 439 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)CCOC)OCC=2C=C(C=CC2)NS(=O)(=O)C | C25H31N5O5S
